US07592358B2
19.1d. 5-(4-chlorophenyl)-2-{4-[2-(4-methylpiperidin-1-yl)ethoxy]phenylethynyl}pyridin-3-ylamine
The product was prepared analogously to Example 7.1e starting from 5-(4-chlorophenyl)-2-ethynylpyridin-3-ylamine and 1-[2-(4-iodophenoxy)ethyl]-4-methylpiperidine. Yield: 0.63 (75% of theoretical); C27H28ClN3O (M=445.984); calc.: molpeak (M+H)+: 446/448 (Cl); found: molpeak (M+H)+: 446/448 (Cl); HPLC-MS: 5.05 minutes (method D).

reactant | 5-(4-chlorophenyl)-2-ethynylpyridin-3-ylamine | ClC1=CC=C(C=C1)C=1C=C(C(=NC1)C#C)N | C13H9ClN2
reactant | 1-[2-(4-iodophenoxy)ethyl]-4-methylpiperidine | IC1=CC=C(OCCN2CCC(CC2)C)C=C1 | C14H20INO
product | 5-(4-chlorophenyl)-2-{4-[2-(4-methylpiperidin-1-yl)ethoxy]phenylethynyl}pyridin-3-ylamine | ClC1=CC=C(C=C1)C=1C=C(C(=NC1)C#CC1=CC=C(C=C1)OCCN1CCC(CC1)C)N | C27H28ClN3O
